US07601844B2
Step 2: 4-(4-Fluorophenyl)-3,3-dimethylpiperidine
A mixture of 4-(4-fluorophenyl)-3,3-dimethyl-1,2,3,6-tetrahydropyridine (450 mg, 2.192 mmol), palladium hydroxide on carbon (308 mg, 2.192 mmol), and acetic acid (1.5 mL, 26.2 mmol) in methanol (10 mL) was degassed under nitrogen/vacuum, then hydrogenated at 50 psi for two days. The catalyst was removed by filtration and rinsed with methanol, and the filtrate was concentrated in vacuo to yield the title compound (442 mg, 2.132 mmol, 97% yield) as a pale yellow oil. MS (ESI+)=208.29, (M+H)+.

reactant | 4-(4-fluorophenyl)-3,3-dimethyl-1,2,3,6-tetrahydropyridine | 2.192 mmol, 450 mg | FC1=CC=C(C=C1)C=1C(CNCC1)(C)C | C13H16FN
reactant | acetic acid | 26.2 mmol, 1.5 mL | C(C)(=O)O | C2H4O2
solvent | methanol | 10 mL | CO | CH4O
catalyst | palladium hydroxide on carbon | 2.192 mmol, 308 mg | [OH-].[OH-].[Pd+2]
product | 4-(4-Fluorophenyl)-3,3-dimethylpiperidine | 2.132 mmol, 442 mg, 97% yield | FC1=CC=C(C=C1)C1C(CNCC1)(C)C | C13H18FN
